US05587379
A stirred solution of 50 grams (0.25 mole) of 3-(naphth-1-yl)propanoic acid and 20 drops (catalyst) of concentrated sulfuric acid in 250 mL of ethanol was heated at reflux for about 24 hours. After this time the reaction mixture was concentrated under reduced pressure to a residue. The residue was dissolved in diethyl ether, and the solution was washed with two 150 mL portions of an aqueous solution saturated with sodium bicarbonate and then with 150 mL of an aqueous solution saturated with sodium chloride. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding 56.0 grams of ethyl 3-(naphth-1-yl)propanoate. The NMR spectrum was consistent with the proposed structure.

reactant | 3-(naphth-1-yl)propanoic acid | 0.25 mole, 50 grams | C1(=CC=CC2=CC=CC=C12)CCC(=O)O | C13H12O2
reactant | ethanol | 250 mL | C(C)O | C2H6O
catalyst | sulfuric acid | 20 drops | S(O)(O)(=O)=O | H2O4S
product | ethyl 3-(naphth-1-yl)propanoate | 56.0 grams | C1(=CC=CC2=CC=CC=C12)CCC(=O)OCC | C15H16O2
